US07807709B2
G. (3S,4R)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
A mixture of ((3S,4R)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-(isopropylamino-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (8.9 g, 23.02 mmol), 3-(3-methoxy-propoxy)-4-methoxy-benzoic acid (6.08 g, 25.32 mmol), bis(2-oxo-3-oxazolidinyl)phosphinic chloride (6.45 g, 25.32 mmol) and triethylamine (7.62 mL, 92.07 mmol) in CH2Cl2 (230 mL) is refluxed for 3 h. The reaction is quenched by the addition of an aqueous saturated solution of NaHCO3. The organic layer is separated, and the aqueous phase is extracted 3 times with AcOEt. The combined organic extracts are dried (Na2SO4), and the solvent is removed in vacuo. The crude product is purified by flash chromatography on silica gel (eluent: CH2Cl2/acetone 95:5 to CH2Cl2/MeOH 95:5) to give the title product. TLC, Rf (CH2Cl2/MeOH 95:5)=0.47. MS (LC-MS): 609.4 [M+H]+; tR (HPLC, C18 column, 5-100% CH3CN/H2O/6 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 1 mL/min): 7.05 min.

reactant | (3S,4R)-3-(tert-butyl-dimethyl-silanyloxymethyl)-4-(isopropylamino-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 23.02 mmol, 8.9 g | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CNC(C)C)C(O[SiH2]C(C)(C)C)(C)C | C20H42N2O3Si
reactant | 3-(3-methoxy-propoxy)-4-methoxy-benzoic acid | 25.32 mmol, 6.08 g | COCCCOC=1C=C(C(=O)O)C=CC1OC | C12H16O5
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 25.32 mmol, 6.45 g | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
reactant | triethylamine | 92.07 mmol, 7.62 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 230 mL | C(Cl)Cl | CH2Cl2
product | (3S,4R)-3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-({isopropyl-[4-methoxy-3-(3-methoxy-propoxy)-benzoyl]-amino}-methyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](C1)CN(C(C1=CC(=C(C=C1)OC)OCCCOC)=O)C(C)C)C(O[SiH2]C(C)(C)C)(C)C | C32H56N2O7Si
